US04536508
(a) N-[4-[3-[(dimethylamino)methyl]phenoxy]butyl]-3-phenylmethyl-1H-1,2,4-triazole-5-amine
A solution of 4-[3-[(dimethylamino)methyl]phenoxy]butanal (0.5 g) and 3-phenyl methyl-1H-1,2,4-triazole-5-amine (0.39 g) in dry toluene (60 ml) was heated under reflux during 3 h. The solvent was evaporated and replaced with methanol (50 ml). Sodium borohydride (0.4 g) was added and the mixture was stirred at 20° during 2 h. The methanol was evaporated and the residue partitioned between water and ethyl acetate. The organic extract was evaporated and the residue was purified by column chromatography to give the title compound, which crystallised from a mixture of ethyl acetate and cyclohexane as pale yellow crystals (0.09 g) m.p. 131°-3°; tlc system A,Rf 0.6.

reactant | 4-[3-[(dimethylamino)methyl]phenoxy]butanal | 0.5 g | CN(C)CC=1C=C(OCCCC=O)C=CC1 | C13H19NO2
reactant | 3-phenyl methyl-1H-1,2,4-triazole-5-amine | 0.39 g | C1(=CC=CC=C1)C1=NN(C(=N1)N)C | C9H10N4
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-[3-[(dimethylamino)methyl]phenoxy]butyl]-3-phenylmethyl-1H-1,2,4-triazole-5-amine | CN(C)CC=1C=C(OCCCCNC2=NC(=NN2)CC2=CC=CC=C2)C=CC1 | C22H29N5O
